US06262268B1
The final step in the process of the present invention is the cyclization of compound (II) to elaborate the final product (I). This intramolecular transformation is efficiently carried out by an optimized Chichibabin-type reaction (for a discussion of Chichibabin aminations, see H. Vorbrüggen, Adv. Heterocyclic Chem., 49, 1990, 117-192). Intramolecular nucleophilic cyclizations of 3-substituted pyridylalkylamines have previously been described. Thus, treatment of 3-(3-pyridyl)propylamine with two equivalents of sodium in boiling toluene afforded 1,2,3,4-tetrahydro-[1,8]-naphthyridine in 30% yield (E. M. Hawes and H. L. Davis, J. Heterocyclic Chem., 1973, 39-42). 1,2,3,4-Tetrahydro-3-phenyl-[1,8]-naphthyridine has been similarly prepared in 54% yield (E. M. Hawes and D. G. Wibberley, J. Chem. Soc. (C), 1966, 315-321). The substrate for the Chichibabin-reaction of the present invention has two nucleophilic amino groups presenting complicating issues of regioselectivity and intramolecular vs. intermolecular reactivity.

reactant | 3-(3-pyridyl)propylamine | N1=CC(=CC=C1)CCCN | C8H12N2
reactant | sodium | two equivalents | [Na] | Na
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4-tetrahydro-[1,8]-naphthyridine | 30% yield | N1CCCC2=CC=CN=C12 | C8H10N2
